US04550169
4,5,6,7-Tetrahydro-2-hydrazino-4,4,7,7-tetramethyl-1H-1,3-diazepine, hydroiodide
A 10.0 g portion of 4,5,6,7-tetrahydro-4,4,7,7-tetramethyl-2-methylthio-1H-1,3-diazepine, hydroiodide was dissolved in 150 ml of ethanol and 2.5 g of hydrazine was added. The mixture was refluxed 6 hours, diluted with 300 ml of ether and stored at -10° C. The solid was removed by filtration. The filtrate was concentrated to about 25 ml in vacuo, diluted with 50 ml of 2-propanol, then 200 ml of ether and stored at -10° C. The solid was collected, washed with ether and dried in vacuo at 60° C., giving 3.5 g of the desired intermediate, mp 154°-155° C.

reactant | 4,5,6,7-tetrahydro-4,4,7,7-tetramethyl-2-methylthio-1H-1,3-diazepine, hydroiodide | I.CC1(N=C(NC(CC1)(C)C)SC)C
reactant | hydrazine | 2.5 g | NN | H4N2
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ether | 300 ml | CCOCC | C4H10O
product | 4,5,6,7-Tetrahydro-2-hydrazino-4,4,7,7-tetramethyl-1H-1,3-diazepine, hydroiodide | 3.5 g | I.N(N)C=1NC(CCC(N1)(C)C)(C)C | InChI=1S/C9H20N4.HI/c1-8(2)5-6-9(3,4)12-7(11-8)13-10;/h5-6,10H2,1-4H3,(H2,11,12,13);1H
